US05767132
A solution of 1.2 g 2-hydroxy-benzonitril and 2.5 g N-2-chloroethyl-N-(5-phenyl-3-pyridylmethyl)-amine [obtainable by reaction of 2-hydroxyethylamine with 3-chloromethyl-5-phenyl-pyridine and subsequent transformation of the product to the 2-chloroethyl-compound by reaction with PCl3 ] in 200 ml of acetonitrile is stirred for 5 hours at room temperature and worked up in a conventional manner to give N-[2-(2-cyanophenoxy)-ethyl]-N-(5-phenyl-3-pyridylmethyl)-amine. Stirring with 0.5 equivalenets of oxalic acid in 100 ml ethanol gives the oxalate, m.p. 208°.

reactant | 2-hydroxy-benzonitril | 1.2 g | OC1=C(C#N)C=CC=C1 | C7H5NO
reactant | N-2-chloroethyl-N-(5-phenyl-3-pyridylmethyl)-amine | 2.5 g | ClCCNCC=1C=NC=C(C1)C1=CC=CC=C1 | C14H15ClN2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 3-chloromethyl-5-phenyl-pyridine | ClCC=1C=NC=C(C1)C1=CC=CC=C1 | C12H10ClN
reactant | PCl3 | P(Cl)(Cl)Cl | Cl3P
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[2-(2-cyanophenoxy)-ethyl]-N-(5-phenyl-3-pyridylmethyl)-amine | C(#N)C1=C(OCCNCC=2C=NC=C(C2)C2=CC=CC=C2)C=CC=C1 | C21H19N3O
